US09340546B2
To a solution of tert-butyl 4-(3-chloro-5-nitropyridin-4-yl)piperazine-1-carboxylate (900 mg, 2.626 mmol) and ZnBr2 (118.3 mg, 28.16 μL, 0.5252 mmol) in methanol (27.00 mL) was added Pd on C (10%, wet, Degussa) (300 mg). The reaction mixture was stirred at RT for 4 h under an atmosphere of hydrogen (balloon). The catalyst was filtered off and the filtrate was concentrated in vacuo to yield tert-butyl 4-(3-amino-5-chloropyridin-4-yl)piperazine-1-carboxylate which was used without further purification (820 mg, 99%). MS (ES+) 313.2.

reactant | tert-butyl 4-(3-chloro-5-nitropyridin-4-yl)piperazine-1-carboxylate | 2.626 mmol, 900 mg | ClC=1C=NC=C(C1N1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C14H19ClN4O4
solvent | methanol | 27.00 mL | CO | CH4O
catalyst | ZnBr2 | 0.5252 mmol, 28.16 μL, 118.3 mg | [Zn+2].[Br-].[Br-]
catalyst | Pd | [Pd] | Pd
product | tert-butyl 4-(3-amino-5-chloropyridin-4-yl)piperazine-1-carboxylate | NC=1C=NC=C(C1N1CCN(CC1)C(=O)OC(C)(C)C)Cl | C14H21ClN4O2
